US08168635B2
Trans-2-(N,N-diethylaminomethyl)-5-(2′-methoxy-5′-fluorophenethyl)tetrahydrofuran
To a vial under Ar was added trans-2-(bromomethyl)-5-(2′-methoxy-5′-fluorophenethyl)tetrahydrofuran (50 mg, 0.16 mmol), NaI (30 mg), diethylamine (55 mg, 0.75 mmol), NaHCO3 (120 mg), and dry DMSO (4 mL). The mixture thus obtained was heated to 50° C. under Ar for 72 h. After it was cooled to room temperature, the reaction mixture was poured into a separatory funnel containing sodium bicarbonate aqueous solution (sat. NaHCO3:H2O=1:1, 30 mL). The organic function was extracted with ethyl acetate (3×30 mL) and the combined organic layers were washed with brine (30 mL) and dried over sodium sulfate. The solvent then was removed in vacuo and crude product thus obtained was purified by flash column chromatography (15% EtOAc in hexane, Rf=0.09) to give the product (14 mg, 28%) as an oil.

reactant | trans-2-(bromomethyl)-5-(2′-methoxy-5′-fluorophenethyl)tetrahydrofuran | 0.16 mmol, 50 mg | BrC[C@@H]1O[C@H](CC1)CCC1=C(C=CC(=C1)F)OC | C14H18BrFO2
reactant | NaI | 30 mg | [Na+].[I-]
reactant | diethylamine | 0.75 mmol, 55 mg | C(C)NCC | C4H11N
reactant | NaHCO3 | 120 mg | C(=O)(O)[O-].[Na+]
reactant | sodium bicarbonate | 30 mL | C([O-])(O)=O.[Na+]
solvent | DMSO | 4 mL | CS(=O)C | C2H6OS
product | Trans-2-(N,N-diethylaminomethyl)-5-(2′-methoxy-5′-fluorophenethyl)tetrahydrofuran | 14 mg, 28% | C(C)N(CC)C[C@@H]1O[C@H](CC1)CCC1=C(C=CC(=C1)F)OC | C18H28FNO2
